US06734191B2
To a solution of ethyl 2-methoxy-6-methylbenzoate (1.23 g, 6.33 mmol) in dry diethyl ether (58 mL) was added LiAlH4 (0.467 g, 12.31 mmol) and the resultant mixture was heated to reflux for 2 hours then cooled to room temperature. The mixture was treated sequentially with water (0.45 mL), 15% aqueous NaOH (0.45 mL) and water (1.35 mL). The mixture was filtered through Celite© and the cake was washed with ether (200 mL). The filtrate was concentrated under reduced pressure and provided 0.96 g (99%) of 2-methoxy-6-methylbenzyl alcohol as a yellow solid. 1H NMR (CDCl3) δ2.27 (t, 1H, J=6.3 Hz), 2.39 (s, 3H), 3.86 (s, 3H), 4.75 (d, 2H, J=6.3 Hz), 6.76 (d, 1H, J=8.4 Hz), 6.81 (d, 1H, J=7.8 Hz), 7.17 (dd, 1H, J=7.8, 8.4 Hz).

reactant | ethyl 2-methoxy-6-methylbenzoate | 6.33 mmol, 1.23 g | COC1=C(C(=O)OCC)C(=CC=C1)C | C11H14O3
reactant | LiAlH4 | 12.31 mmol, 0.467 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 0.45 mL | O | H2O
reactant | NaOH | 0.45 mL | [OH-].[Na+]
reactant | water | 1.35 mL | O | H2O
solvent | diethyl ether | 58 mL | C(C)OCC | C4H10O
product | 2-methoxy-6-methylbenzyl alcohol | 0.96 g, 99% | COC1=C(CO)C(=CC=C1)C | C9H12O2
